US06844362B2
1-tert-butyl 2-methyl 5-(2-oxopropyl)-1H-indole-1,2-dicarboxylate
A solution of 1-tert-butyl 2-methyl 5-bromo-1H-indole-1,2-dicarboxylate (Preparation 18, 12.5 g, max 32.04 mmol), tributyltin methoxide (11.0 ml, 38.2 mmol), isoprenylacetate (5.3 ml, 48.1 mmol), palladium acetate (0.36 g, 5 mol %), tri-o-tolylphosphine (0.97 g, 10 mol %) in toluene (40 ml) was degassed and then heated at 100° C. for 8 hours. The reaction mixture was diluted with ethyl acetate (50 ml), 4M potassium fluoride (aqueous, 100 ml) and left to stir at room temperature overnight. The resulting mixture was filtered through arbocel washing the precipitate thoroughly with ethyl acetate (100 ml) and the organic phase of the filtrate separated, dried (magnesium sulphate) and the solvent removed in vacuo. The residue was purified by flash column chromatography on silica gel eluting with pentane:ethyl acetate (95:5 changing to 90:10, by volume) to give the title compound (8.2 g) as a yellow oil.

reactant | 1-tert-butyl 2-methyl 5-bromo-1H-indole-1,2-dicarboxylate | 32.04 mmol, 12.5 g | BrC=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)C(=O)OC | C15H16BrNO4
reactant | tributyltin methoxide | 38.2 mmol, 11.0 ml | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | isoprenylacetate | 48.1 mmol, 5.3 ml | C(=CC(C)=C)CC(=O)[O-]
reactant | tri-o-tolylphosphine | 0.97 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | potassium fluoride | 4M, 100 ml | [F-].[K+]
catalyst | palladium acetate | 0.36 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-tert-butyl 2-methyl 5-(2-oxopropyl)-1H-indole-1,2-dicarboxylate | 8.2 g | O=C(CC=1C=C2C=C(N(C2=CC1)C(=O)OC(C)(C)C)C(=O)OC)C | C18H21NO5
